US05854268
a) (3R)-N-tert-Butyloxycarbonyl-3-(pyridin-3-ylmethyloxy)pyrrolidine
A suspension of 3-picolylchloride hydrochloride (1.84 g, 11.2 mmol) in DMF (50 ml) was added to a stirred slurry of sodium hydride (60% dispersion in oil, 0.45 g, 11.2 mmol) in DMF at 0° C. under nitrogen. The mixture was stirred at 0° C. for 0.25 h and then added to a mixture of (3R)-N-tert-butyloxycarbonylpyrrolidin-3-ol (2.0 g, 10.7 mmol) and sodium hydride (60% dispersion in oil, 0.45 g, 11.2 mmol) in DMF at 0° C. under nitrogen (mixture stirred for 0.2 h at 0° C. prior to the addition). The reaction mixture was stirred at room temperature for 2.5 h. Water (200 ml) was added and the mixture extracted with ethyl acetate (1×200 ml), dried (Na2SO4) and evaporated in vacuo. The crude product was chromatographed on silica gel, eluting with Et2 O/MeOH (95:5), to give the desired product (1.63 g, 55%), δ (250 MHz, d4 -MeOH), 1.46 (9H, s, OC(Me)3), 1.95-2.18 (2H, m, CH2), 3.34-3.51 (4H, m, 2 of CH2), 4.22 (1H, m, CHOCH2Ar), 4.59 (2H, s, OCH2Ar), 7.43 (1H, dd, J=4.7 and 7.8 Hz, Ar--H), 7.48 (1H, d, J=7.9 Hz, Ar--H), 8.45-8.51 (2H, m, 2 of Ar--H).

reactant | 3-picolylchloride hydrochloride | 11.2 mmol, 1.84 g | Cl.N1=CC(=CC=C1)CCl
reactant | sodium hydride | 11.2 mmol, 0.45 g | [H-].[Na+]
reactant | (3R)-N-tert-butyloxycarbonylpyrrolidin-3-ol | 10.7 mmol, 2.0 g | C(C)(C)(C)OC(=O)N1C[C@@H](CC1)O | C9H17NO3
reactant | sodium hydride | 11.2 mmol, 0.45 g | [H-].[Na+]
reactant | Water | 200 ml | O | H2O
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | (3R)-N-tert-Butyloxycarbonyl-3-(pyridin-3-ylmethyloxy)pyrrolidine | 1.63 g, 55% | C(C)(C)(C)OC(=O)N1C[C@@H](CC1)OCC=1C=NC=CC1 | C15H22N2O3
